US07713994B2
A mixture of (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione (97 mg, 0.30 mmol), 4-aminomethyl-1-thiophen-3-yl-1H-pyridin-2-one (61 mg, 0.30 mmol), and triethylamine (77 μL, 0.59 mmol) in N,N-dimethylformamide (2 mL) is stirred overnight at room temperature. The reaction mixture is concentrated under reduced pressure, and the residue is triturated with acetonitrile to provide (4Z)-6-iodo-4-[({[2-oxo-1-(3-thienyl)-1,2-dihydropyridin-4-yl]methyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione as a mauve powder (65 mg, 43%).

reactant | (4E)-6-iodo-4-(methoxymethylene)isoquinoline-1,3(2H,4H)-dione | 0.30 mmol, 97 mg | IC=1C=C2\C(\C(NC(C2=CC1)=O)=O)=C/OC | C11H8INO3
reactant | 4-aminomethyl-1-thiophen-3-yl-1H-pyridin-2-one | 0.30 mmol, 61 mg | NCC1=CC(N(C=C1)C1=CSC=C1)=O | C10H10N2OS
reactant | triethylamine | 0.59 mmol, 77 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-iodo-4-[({[2-oxo-1-(3-thienyl)-1,2-dihydropyridin-4-yl]methyl}amino)methylene]isoquinoline-1,3(2H,4H)-dione | 65 mg, 43% | IC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NCC1=CC(N(C=C1)C1=CSC=C1)=O | C20H14IN3O3S
